* Copyright © Linear Technology Corp. 2004.  All rights reserved.
*
.subckt LT3027 1 2 3 4 5 6 7 8 9 10 11
Q1 N003 N006 8 0 PN
Q2 N006 N009 11 0 NA
Q3 N009 N005 N011 0 NP temp=27
C1 N009 N005 12p Rser=350K
Q4 N005 N005 5 0 NP 10 temp=27
R2 5 11 12K
R3 N011 11 10K
C2 6 N005 15p
Q5 6 4 N010 0 FB temp=27
R6 N010 5 106.8K
R5 7 11 20Meg
I1 7 11 1µ load
A1 7 11 11 11 11 11 N002 11 SCHMITT Vt=.8 Vh=1m trise=1m
G2 8 N005 N002 11 1.2µ
G1 8 N009 N002 11 1.2µ
R1 8 N006 600K
R8 N003 6 .117
A2 N007 11 N009 N009 N009 N009 11 N009 VARISTOR
D3 11 N007 F
G3 11 N007 6 N003 100m
Q7 N005 N006 N003 0 P 1m
D1 8 6 X
C5 6 11 10p
C7 8 11 10p
C8 5 11 1p
G4 11 N007 8 11 table(1.3 1m 2.4 3m 10 4m)
G5 N007 11 N002 11 table(0 3m 1 0)
C4 8 N005 100p Rser=.67G Rpar=6G
Q6 N016 N019 9 0 PN
Q8 N019 N022 11 0 NA
Q9 N022 N018 N024 0 NP temp=27
C6 N022 N018 12p Rser=350K
Q10 N018 N018 1 0 NP 10 temp=27
R4 1 11 12K
R11 N024 11 10K
C9 10 N018 15p
Q11 10 2 N023 0 FB temp=27
R12 N023 1 106.8K
R13 3 11 20Meg
I2 3 11 1µ load
A3 3 11 11 11 11 11 N014 11 SCHMITT Vt=.8 Vh=1m trise=10n
G6 9 N018 N014 11 1.2µ
G7 9 N022 N014 11 1.2µ
R14 9 N019 600K
R15 N016 10 1.17
A4 N020 11 N022 N022 N022 N022 11 N022 VARISTOR
D2 11 N020 F
G8 11 N020 10 N016 10m
Q12 N018 N019 N016 0 P 1m
D4 9 10 X
C11 10 11 10p
C13 1 11 1p
G9 11 N020 9 11 table(1.3 1m 2.4 3m 10 4m)
G10 N020 11 N014 11 table(0 3m 1 0)
C14 9 N018 100p Rser=.67G Rpar=6G
C12 9 11 10p
G11 N007 11 N004 11 table(0 0 1 3m)
A5 N003 8 11 11 11 11 N004 11 SCHMITT Vt=10m Vh=1m
G12 N020 11 N017 11 table(0 0 1 3m)
A6 N016 9 11 11 11 11 N017 11 SCHMITT Vt=10m Vh=1m
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=600K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT3027
